US07078404B2
a) 2,4-Dichlorobenzoyl isocyanate
2,4-Dichlorobenzamide was dissolved in dichloromethane, after which 1.5 eq. of oxalyl chloride were added and the mixture was heated to reflux for 16 hours. The reaction mixture was then concentrated under high vacuum and reacted in step b without any further purification.

reactant | 2,4-Dichlorobenzamide | ClC1=C(C(=O)N)C=CC(=C1)Cl | C7H5Cl2NO
reactant | oxalyl chloride | 1.5 eq. | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2,4-Dichlorobenzoyl isocyanate | ClC1=C(C(=O)N=C=O)C=CC(=C1)Cl | C8H3Cl2NO2
